US04533498
To a stirred suspension of LiAlH4 (2 g) in dry THF (100 was added a solution of the (±)-5-azido-2-carbethoxy-2-azabicyclo[2,2,2]octane (D3a) (3.5 g) under dry nitrogen and the mixture heated under reflux for 5 hrs. Normal basic work-up afforded the crude (±) 5-amino-2-methyl-2-azabicyclo[2,2,2]octane (D4a) (1.6 g, 70%), purified by distillation (b.p. 75°/5 mmHg).

reactant | LiAlH4 | 2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (±)-5-azido-2-carbethoxy-2-azabicyclo[2,2,2]octane | 3.5 g | N(=[N+]=[N-])C1C2CN(C(C1)CC2)C(=O)OCC | C10H16N4O2
solvent | THF | C1CCOC1 | C4H8O
product | (±) 5-amino-2-methyl-2-azabicyclo[2,2,2]octane | 1.6 g, 70% | NC1C2CN(C(C1)CC2)C | C8H16N2
